US07517532B2
4-(Hydroxymethyl)-2-(4-fluorobenzyl)-8,9-dihydroxy-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione
A mixture of 4-[(benzyloxy)methyl]-2-(4-fluorobenzyl)-8,9-dihydroxy-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione (151 mg) and 5% Pd/C (57 mg) in ethanol (20 mL) was stirred under an atmosphere of hydrogen (1 atm) at room temperature overnight. The product mixture was filtered through a pad of Celite, and concentrated under vacuum. The residue was subjected to HPLC purification on C-18 stationary phase eluted with water/acetonitrile/TFA mobile phase. Collection and lyophilization of appropriate fractions provided the title compound.

reactant | 4-[(benzyloxy)methyl]-2-(4-fluorobenzyl)-8,9-dihydroxy-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione | 151 mg | C(C1=CC=CC=C1)OCC1CN(C(C=2N1C(C=C(C2O)O)=O)=O)CC2=CC=C(C=C2)F | C23H21FN2O5
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd/C | 57 mg | [Pd] | Pd
product | 4-(Hydroxymethyl)-2-(4-fluorobenzyl)-8,9-dihydroxy-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione | OCC1CN(C(C=2N1C(C=C(C2O)O)=O)=O)CC2=CC=C(C=C2)F | C16H15FN2O5
